US09403839B2
A solution of [8-ethyl-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-7-en-3-yl]-(4-isopropoxy-3-methyl-phenyl)methanone (90 mg, 0.21 mmol) in EtOH (14 mL) was purged with nitrogen for 5 min and then treated with 10% palladium on carbon (220 mg, 0.21 mmol). The mixture was evacuated and put under a hydrogen atmosphere (balloon). The reaction mixture was stirred for 4 h at 25° C. The reaction mixture was evacuated and put under an inert atmosphere. The Pd-catalyst was removed via filtration and was washed with ethyl acetate. The filtrate was concentrated to dryness. The crude mixture was purified on silica gel utilizing a gradient of 50-100% ethyl acetate and hexanes to yield (cis-4-ethyl-2-(pyridin-3-yl)-1-oxa-9-azaspiro[5.5]undecan-9-yl)(4-isopropoxy-3-methylphenyl)methanone (17 mg) ESI-MS m/z calc. 436.27, found 437.5 (M+1)+; Retention time: 1.68 minutes (3 min run).

reactant | [8-ethyl-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-7-en-3-yl]-(4-isopropoxy-3-methyl-phenyl)methanone | 0.21 mmol, 90 mg | C(C)C1=CC2(CCN(CC2)C(=O)C2=CC(=C(C=C2)OC(C)C)C)OC(C1)C=1C=NC=CC1 | C27H34N2O3
solvent | EtOH | 14 mL | CCO | C2H6O
catalyst | palladium on carbon | 0.21 mmol, 220 mg | [Pd] | Pd
product | (cis-4-ethyl-2-(pyridin-3-yl)-1-oxa-9-azaspiro[5.5]undecan-9-yl)(4-isopropoxy-3-methylphenyl)methanone | 17 mg | C(C)[C@@H]1C[C@@H](OC2(C1)CCN(CC2)C(=O)C2=CC(=C(C=C2)OC(C)C)C)C=2C=NC=CC2 | C27H36N2O3
